US04317911
12 g of 1,3,5-tris-[2-(2,2,6,6-tetramethyl-piperidin-4-yl-oxycarbonyl)-ethyl]-isocyanuric acid (m.p. 153°-155° C.) were suspended in 120 ml of acetic anhydride, and the suspension was heated at 95° C. for 26 hours. The acetic anhydride was then distilled off as completely as possible, in a water-jet vacuum, from the clear solution formed; the residue was dissolved in 200 ml of diethyl ether/methylene chloride (9:1), the solution was washed twice with water, three times with saturated sodium hydrogen carbonate solution, and finally again twice with water. The organic phase was dried over sodium sulphate, the solvent was distilled off in vacuo, and the residue was recrystallised from diethyl ether/acetonitrile (98:2) to obtain pure 1,3,5-tris-[2-(1-acetyl-2,2,6,6-tetramethyl-piperidin-4-yl-oxycarbonyl)-ethyl]-isocyanuric acid, m.p. 126.5°-128° C.

reactant | 1,3,5-tris-[2-(2,2,6,6-tetramethyl-piperidin-4-yl-oxycarbonyl)-ethyl]-isocyanuric acid | 12 g | CC1(NC(CC(C1)OC(=O)CCN1C(=O)N(C(=O)N(C1=O)CCC(=O)OC1CC(NC(C1)(C)C)(C)C)CCC(=O)OC1CC(NC(C1)(C)C)(C)C)(C)C)C | C39H66N6O9
solvent | acetic anhydride | 120 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | diethyl ether methylene chloride | 200 ml | C(C)OCC.C(Cl)Cl
product | 1,3,5-tris-[2-(1-acetyl-2,2,6,6-tetramethyl-piperidin-4-yl-oxycarbonyl)-ethyl]-isocyanuric acid | C(C)(=O)N1C(CC(CC1(C)C)OC(=O)CCN1C(=O)N(C(=O)N(C1=O)CCC(=O)OC1CC(N(C(C1)(C)C)C(C)=O)(C)C)CCC(=O)OC1CC(N(C(C1)(C)C)C(C)=O)(C)C)(C)C | C45H72N6O12
